Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:11].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[O:10]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:10][H:11],-0.938400062478
[H:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])(=[C:5]=[C:6]([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2],3.03713998088
[H:1][C:2]=[C:3]([H:4])[O:5][C:6](=[C:7])[O:9][H:10].[H:8]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6](=[C:7][H:8])[O:9][H:10],-4.76646819621
[C:2]([H:3])([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.2827782642
[C:6][C:7]([H:8])([H:9])[O:10][H:11].[H:1][O:2][C:3]#[C:4][H:5]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[O:10][H:11],-2.8780562860400005
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12]>>[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[O:8])[C:10]([H:11])[H:12],3.69378766054
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11]>>[C:4]([H:5])([H:6])=[C:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3],0.34013515112
[H:1].[O:2]=[C:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[O:9][H:10],-1.03332082182
[H:18].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([C:11]([H:12])([H:13])[H:14])=[C:15]([H:16])[H:17]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-1.88708558515
[O:1]=[C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:3].[O:1]=[C:2]=[C:4]([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],4.05134648051
[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C@:3]1([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]1([H:11])[H:12],-3.82216441811
[C:1].[C:2]=[C:3]([O:4][C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][C:3]([O:4][C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-7.52644711852
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2][O:3][C:4]([H:5])[H:6],5.43862658864
[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:1].[C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11],6.482899557590001
[O:1]=[C:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:4].[O:1]=[C:2]=[C:3]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],2.68269503047
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])([H:7])[C@@:8]1([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],0.30408961824
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13]>>[H:11].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]#[C:12][H:13],1.81417386978
[O:10][H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[H:9]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11],-5.413160073709999
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1].[O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],4.58998297066
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][H:9]>>[C:5]([H:6])([H:7])=[C:8][H:9].[O:1]=[C:2]([H:3])[H:4],-1.9103481436900005
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:5]([H:6])([H:7])=[C:8]([H:9])[H:10].[H:1][O:2][C:3]([H:4])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],1.07464466619
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][O:8][C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]=[O:8],2.51218170353
[H:1][O:2][C:3]([C:4][O:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([C:4][O:5][C:6]([H:7])[H:8])=[C:10]([H:11])[H:12].[H:9],4.41604205858
[O:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([H:3])[H:4].[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],0.8317864510199999
[H:1][O:2][C:3].[O:4]=[C:5]=[C:6]([H:7])[H:8]>>[H:1][O:2][C:3][O:4][C:5]=[C:6]([H:7])[H:8],-0.18923013198
[C:8]([H:9])[H:10].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]=[C:11]([H:12])[H:13]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([C:8]([H:9])[H:10])=[C:11]([H:12])[H:13],-6.33588817452
[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15],-0.7198409923319999
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[H:1][C:2][C:3]1([H:4])[C:5]([H:6])([H:7])[C:8]1([H:9])[H:10],-0.2059017578
[O:1]=[C:2]=[C:3][C:4][O:5][C:6]([H:7])([H:8])[H:9]>>[H:9].[O:1]=[C:2]=[C:3][C:4][O:5][C:6]([H:7])[H:8],4.50923629166
[C:1]#[C:2].[O:3]=[C:4]([H:5])[O:6][H:7]>>[C:1]#[C:2][O:3][C:4]([H:5])[O:6][H:7],-2.03935341358
